US05688946
(S)-α-[(tert-Butylsulphonyl)methyl]-2-thiophenepropionic acid:
This compound is prepared in a manner analogous to Example 1(d) by the enzymatic hydrolysis of ethyl (S)-α-[(tert-butylsulphonyl)methyl]-2-thiophenepropionate which, in turn, is prepared analogously to the synthesis, described in EPA 0236734, of ethyl (RS)-α-[(tert-butylsulphonyl)methyl]hydrocinnamate from diethyl 2-thionylmethylmalonate (P. Cagniant et al., Bull. Soc. Chim. Fr. 1954, 1349). MS: 318 (M)+.

reactant | ethyl (S)-α-[(tert-butylsulphonyl)methyl]-2-thiophenepropionate | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)OCC)CC=1SC=CC1 | C14H22O4S2
reactant | ethyl (RS)-α-[(tert-butylsulphonyl)methyl]hydrocinnamate | C(C)(C)(C)S(=O)(=O)CC(C(=O)OCC)CC1=CC=CC=C1 | C16H24O4S
reactant | diethyl 2-thionylmethylmalonate | S(=O)=CC(C(=O)OCC)C(=O)OCC | C8H12O5S
product | (S)-α-[(tert-Butylsulphonyl)methyl]-2-thiophenepropionic acid | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)O)CC=1SC=CC1 | C12H18O4S2
